Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
fibroid uterus
 
Major Surgical or Invasive Procedure:
TOTAL ABDOMINAL HYSTERECTOMY, LEFT SALPINGO-OOPHORECTOMY, RIGHT 
SALPINGECTOMY

 
History of Present Illness:
Mrs. ___ is a ___ y/o G4P2 who is referred to Gyn Oncology for
evaluation of a large uterine mass.

She reports increased abdominal distention beginning ___ year ago.
She initially attributed this to weight gain; however, she
continued to note abdominal distention after losing some weight.
For the past ~2 months, she has noted increased abdominal
distention, severe low back pain, and persistent vaginal
bleeding. Her vaginal bleeding varies from light spotting to
heavier menstrual-like bleeding requiring her to change her pads
___ times per day despite wearing 2 pads layered on top of each
other at a time. She reports previously regular monthly menses. 

She presented to ___ ED on ___ for evaluation. She
was hemodynamically stable with a Hct of 32.5. She had a CT
abd/pelvis demonstrating a "22 x 15 x 20 cm heterogeneous,
multilobulated masslike structure in continuity with the 
proximal
uterus" exerting mass effect on the aortic bifurcation, trace
free fluid, and no lymphadenopathy. The left ovary was not well
visualized, and the right ovary was tentatively visualized and
appeared wnl. She was then transferred to ___ ED for further
evaluation. While in the ___ ED, GYN was consulted. As she was
determined to be clinically stable with no indication for
emergent surgical intervention, she was discharged with tumor
markers pending and outpatient follow up with Gyn Onc for
surgical planning. Her tumor markers resulted as follows: CA-125
= 79, CEA 1.3, ___ not resulted due to inadequate sample.
 
Past Medical History:
PGynHx: 
-LMP uncertain given ongoing vaginal bleeding
-Denies prior h/o intermenstrual bleeding, heavy menstrual
bleeding, dysmenorrhea, fibroids, ovarian cysts, abnormal Paps
 Last pap estimated ___ yrs ago, wnl per patient report
 STDs denies
 GYN procedures? denies
 Denies h/o HRT use
 
POBHx: ___
 SVD x2
 TAB x2

PMHx: 
- Has not followed regularly with a PCP due to lack of insurance
coverage. Denies h/o heart or respiratory disease, HTN,
thromboembolic disease, cancer history

Health Maintenance: 
 - Colonoscopy: N/A
 - Mammogram: estimates ___ yrs ago, wnl per patient report
 - Bone-Density Scan: N/A

PSHx:
- PPTL 
 
Social History:
___
Family History:
- Mother with lung cancer (nonsmoker), living
- denies h/o breast, cervical, endometrial, uterine, or colon CA
- denies h/o bleeding or clotting disorder 
 
Physical Exam:
Pre-operative exam:
afebrile, vitals stable
 GEN: NAD
 NEURO: AOx3
 PSYCH: Appropriate mood and affect
 HEENT: EOMI, MMM, sclera anicteric
 THYROID: No thyromegaly, no nodules
 CV: Normal rate, regular rhythm, no murmurs/rubs/gallops, 
normal
S1, S2
 PULM: Lungs clear, no crackles
 GI: Soft, large firm mass filling pelvis and extending
superiorly midway between umbilicus and xiphoid process with
portion of left superior aspect of mass projecting superiorly  
to
inferior margin of left ribs, mass mildly tender to palpation 
and
somewhat mobile, no rebound/guarding
 BACK: Lumbar spinous processes and paraspinal muscles tender to
palpation, No CVAT
 LYMPHATICS: No cervical or inguinal lymphadenopathy
 PELVIC:
 -External Genitalia: No lesions, normal appearing
 -Vagina: Well estrogenized, no lesions
 -Cervix: Deviated posterolaterally to left, Parous os, no
lesions
 -Uterus: AV, bulky, nontender
 -Adnexa: No adnexal tenderness
 SKIN: No ecchymoses, no lesions
 MUSCULOSKELETAL: Nontender, trace peripheral edema
 RECTAL: Normal sphincter tone, no masses, confirms pelvic exam

Day of discharge:
Afebrile, vitals stable
Gen: No acute distress
CV: RRR
Pulm: CTAB 
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: non-tender, non-edematous
 
Pertinent Results:
CBC/diff:
___ 06:42AM BLOOD WBC-15.5* RBC-3.48* Hgb-7.8* Hct-25.9* 
MCV-74* MCH-22.4* MCHC-30.1* RDW-17.1* RDWSD-46.0 Plt ___
___ 06:54AM BLOOD Neuts-74.4* Lymphs-17.0* Monos-7.1 
Eos-0.5* Baso-0.4 Im ___ AbsNeut-8.18* AbsLymp-1.87 
AbsMono-0.78 AbsEos-0.06 AbsBaso-0.04

___ 06:54AM BLOOD WBC-11.0* RBC-3.41* Hgb-7.7* Hct-25.7* 
MCV-75* MCH-22.6* MCHC-30.0* RDW-17.1* RDWSD-46.6* Plt ___
___ 06:54AM BLOOD Neuts-74.4* Lymphs-17.0* Monos-7.1 
Eos-0.5* Baso-0.4 Im ___ AbsNeut-8.18* AbsLymp-1.87 
AbsMono-0.78 AbsEos-0.06 AbsBaso-0.04

Chemistry:

___ 06:42AM BLOOD Glucose-96 UreaN-9 Creat-0.7 Na-141 K-3.6 
Cl-104 HCO3-28 AnGap-9*
___ 06:42AM BLOOD Calcium-8.3* Phos-2.5* Mg-1.8

___ 06:54AM BLOOD Glucose-95 UreaN-8 Creat-0.6 Na-142 K-4.1 
Cl-105 HCO3-24 AnGap-13
___ 06:54AM BLOOD Calcium-8.3* Phos-2.4* Mg-1.9
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service after 
undergoing TOTAL ABDOMINAL HYSTERECTOMY, LEFT 
SALPINGO-OOPHORECTOMY, RIGHT SALPINGECTOMY. Please see the 
operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with an Epidural. She 
experienced pruritis and was transition to a PCA. Her diet was 
advanced without difficulty and she was transitioned to 
acetaminophen, ibuprofen and hydromorphone. On post-operative 
day #1, her urine output was adequate so her Foley catheter was 
removed and she voided spontaneously. 

By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
Do not exceed 4000mg in 24 hours
 
RX *acetaminophen 500 mg ___ tablet(s) by mouth Every 6 hours 
Disp #*60 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
___ take with dilaudid to prevent severe constipation. 
RX *docusate sodium 100 mg 1 tablet(s) by mouth Twice per day 
Disp #*28 Tablet Refills:*0 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not operative heavy machinery or drink while using.  
RX *hydromorphone 2 mg ___ tablet(s) by mouth Every ___ hours 
Disp #*20 Tablet Refills:*0 
4.  Ibuprofen 600 mg PO Q6H 
Take with food.  
RX *ibuprofen 600 mg 1 tablet(s) by mouth Every 6 hours Disp 
#*60 Tablet Refills:*0 
5.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
RX *ondansetron 4 mg 1 tablet(s) by mouth Every 8 hours Disp #*8 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fibroid uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
 
* Take your medications as prescribed.  We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks.  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 
 
Followup Instructions:
___